US04028386
9.45 g of diethyl carbonate and 7.8 g of 6,10-dimethyl- 2-oxo-5,9-undecadiene were added to a suspension of 3.84g of sodium hydride in a 50% oil suspension in 40 ml of benzene and the mixture was refluxed for 21/2 hours and then cooled. The mixture was poured into dilute hydrochloric acid and was then extracted with ethyl acetate. The organic phase was washed with water, dried over sodium sulfate and evaporated to dryness. The residue was chromatographed over silica and was eluted with benzene to obtain 3.96 g of ethyl 7,11-dimethyl- 3-oxo-6,10-dodecadienoate in the form of a yellow oil which was used as is for the next step.

reactant | diethyl carbonate | 9.45 g | C(OCC)(OCC)=O | C5H10O3
reactant | 6,10-dimethyl- 2-oxo-5,9-undecadiene | 7.8 g | CC(=CCCC(C)=O)CCC=C(C)C | C13H22O
reactant | sodium hydride | 3.84g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | ethyl 7,11-dimethyl- 3-oxo-6,10-dodecadienoate | 3.96 g | CC(=CCCC(CC(=O)OCC)=O)CCC=C(C)C | C16H26O3
